US08497370B2
20 g of sodium CMC is dissolved in water to form a 5% viscous aqueous solution (40 ml). Sildenafil citrate (13.3 g) is added to the solution and the mixture is stirred at 50° C. for 1 hr to obtain a white precipitate. The solution is poured out then the ethanol (100 ml) is added for dehydration. Ethanol (100 ml) is added additionally to wash out the unreacted Sildenafil, over night and warmed in water bath at 50° C. and cooled at room temperature over night to obtain the precipitate of Sildenafil-CMC complex (29.6 g).

reactant | Sildenafil citrate | 13.3 g | CCCC=1C2=C(N(N1)C)C(=O)NC(=N2)C=3C=C(C=CC3OCC)S(=O)(=O)N4CCN(CC4)C.C(C(=O)O)C(CC(=O)O)(C(=O)O)O
solvent | Ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Sildenafil | CCCC=1C2=C(N(N1)C)C(=O)NC(=N2)C=3C=C(C=CC3OCC)S(=O)(=O)N4CCN(CC4)C | C22H30N6O4S
